US08420681B2
17.9 g (0.130 mol; 1.1 eq.) of potassium carbonate are added to a solution of 30.4 g (0.117 mol; 1 eq.) of 1-p-tolyl-1,3-diazaspiro[4.5]decane-2,4-dione in 150 ml of DMF, and 16 ml (0.141 mol; 1.2 eq.) of ethyl bromoacetate are then added dropwise to the reaction medium. The cream-coloured reaction medium suspension is stirred at room temperature for 18 hours. The reaction medium is poured into 300 ml of water and the white precipitate is filtered off, rinsed with water and then dried in an oven under vacuum at 40° C. for 48 hours. The product (2,4-dioxo-1-p-tolyl-1,3-diaza-spiro[4.5]dec-3-yl)acetic acid ethyl ester is obtained in the form of a white solid.

reactant | potassium carbonate | 0.130 mol, 17.9 g, 1.1 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 1-p-tolyl-1,3-diazaspiro[4.5]decane-2,4-dione | 0.117 mol, 30.4 g, 1 eq. | C1(=CC=C(C=C1)N1C(NC(C12CCCCC2)=O)=O)C | C15H18N2O2
reactant | ethyl bromoacetate | 0.141 mol, 16 ml, 1.2 eq. | BrCC(=O)OCC | C4H7BrO2
reactant | water | 300 ml | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | (2,4-dioxo-1-p-tolyl-1,3-diaza-spiro[4.5]dec-3-yl)acetic acid ethyl ester | C(C)OC(CN1C(N(C2(C1=O)CCCCC2)C2=CC=C(C=C2)C)=O)=O | C19H24N2O4
